US07547697B2
(1SR,8RS)-5-tert-Butyl-11,11-dimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2.4.6-triene
white solid MS (ESI): 231 (MH+). Prepared from 7,7-dimethyl-bicyclo[2.2.1]heptane-2,3-dione (Childs, Ronald F.; Rogerson, Carol V.; J. Am. Chem. Soc.; EN; 102; 12; 1980; 4159), 3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 7,7-dimethyl-bicyclo[2.2.1]heptane-2,3-dione | CC1(C2C(C(C1CC2)=O)=O)C | C9H12O2
reactant | phosphonic acid dimethyl ester | COP(OC)=O | C2H7O3P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-tert-Butyl-11,11-dimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2.4.6-triene | C(C)(C)(C)C1=NN=C2C3CCC(C2=C1)C3(C)C | C15H22N2
